US04102888
Step A-1. Preparation of 1-(1-Acetyloxycyclohexyl)-3-benzyloxy-1-propyne
A solution of 3-benzyloxy-1-propyne (1 molar equivalent) in dry ether is added dropwise to a stirred solution of ethylmagnesium bromide (1 molar equivalent) in ether at ambient temperature under a nitrogen atmosphere. Upon completing the addition, the reaction mixture is stirred at ambient temperature until gas evolution (ethane generation) ceases, then is cooled to 0° to 5° C. and treated with cyclohexanone (1 molar equivalent) added dropwise at such a rate as to prevent the reaction mixture from attaining room temperature. After completing the addition, the reaction mixture is allowed to warm to room temperature, then is heated at reflux for 1 hour. In vacuo evaporation of the reaction mixture at 40° C. provides a gelatinous residue which is treated with anhydrous tetrahydrofuran and acetic anhydride (1 molar equivalent) and then heated at reflux under a nitrogen atmosphere for 1/2 hour. After cooling to 0° to 5° C., the reaction mixture is slowly diluted with cold 2 N hydrochloric acid, stirred at 0° to 5° C. for 15 minutes and allowed to warm to room temperature. The resulting turbid reaction mixture is extracted several times with ether. The combined organic extract is washed with water (until washings are neutral to Litmus paper) and saturated aqueous brine, dried over sodium sulfate, and filtered. Evaporation (in vacuo at 40° C.) of the filtrate provides the title compound as an essentially colorless oil.

reactant | 3-benzyloxy-1-propyne | 1 molar | C(C1=CC=CC=C1)OCC#C | C10H10O
reactant | ethylmagnesium bromide | 1 molar | C(C)[Mg]Br
reactant | ethane | CC | C2H6
reactant | cyclohexanone | 1 molar | C1(CCCCC1)=O | C6H10O
reactant | acetic anhydride | 1 molar | C(C)(=O)OC(C)=O | C4H6O3
solvent | ether | CCOCC | C4H10O
solvent | hydrochloric acid | 2 N | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(1-Acetyloxycyclohexyl)-3-benzyloxy-1-propyne | C(C)(=O)OC1(CCCCC1)C#CCOCC1=CC=CC=C1 | C18H22O3
